US08802704B2
Step 2: tert-butyl 2-((2-chloro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate
A solution of tert-butyl 2-((4-cyano-2-chlorobenzyl)(methyl)amino)acetate (1.25 g, 4.25 mmol) and 50% aqueous hydroxylamine (1.30 mL) in ethanol (10 mL) was heated at 80° C. for 5 hours. The solvent was evaporated under vacuum. The residue was partitioned between DCM and water. The organic phase was passed through a hydrophobic frit and concentrated under vacuum to afford the title compound (1.34 g, 76%). 1H NMR (CDCl3, 400 MHz) δ 7.63 (1H, d, J=1.8 Hz), 7.59 (1H, d, J=8.0 Hz), 7.50 (1H, dd, J=8.0, 1.8 Hz), 4.84 (2H, s), 3.83 (2H, s), 3.25 (2H, s), 2.42 (3H, s), 1.48 (9H, s).

reactant | tert-butyl 2-((4-cyano-2-chlorobenzyl)(methyl)amino)acetate | 4.25 mmol, 1.25 g | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)Cl | C15H19ClN2O2
reactant | hydroxylamine | 1.30 mL | NO | H3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl 2-((2-chloro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate | 1.34 g, 76% | ClC1=C(CN(CC(=O)OC(C)(C)C)C)C=CC(=C1)C(N)=NO | C15H22ClN3O3
